US06498165B1
Step A: Methyl 1-(benzyloxycarbonyl)-4-(tert-butyloxycarbonyl)piperazine-2-carboxylate
To a solution of 3.00 g of piperazine-2-carboxylic acid in 100 mL of 1:1 dioxane-water at pH 11 was added dropwise a solution of 4.0 g of 2-(tert-butyloxycarbonyloxyimino)-2-phenylacetonitrile in 25 mL of dioxane, maintaining the pH of the solution at 11 during the addition with the use of 5 N NaOH. The mixture was stirred for 6 h at room temperature, then cooled to 0° C. The pH was adjusted to 9.5 with the use of 1 N HCl. Benzyl chloroformate (2.8 g) was added dropwise, maintaining the pH of the solution at 9.5 during the addition with the use of 5 N NaOH. The mixture was allowed to warm to room temperature and stirred for 20 h, then extracted with 2×75 mL of Et2O, acidified to pH≦2 with 1 N HCl, and extracted with 4×50 mL of EtOAc. The combined EtOAc extracts were washed with 50 mL of brine, dried over MgSO4, and concentrated to a pale yellow oil. This oil was dissolved in 150 mL of acetone. Dimethyl sulfate (2.25 g) and potassium carbonate (2.89 g) were added. The mixture was heated to reflux and stirred at this temperature for 6 h, then cooled, filtered, and concentrated. The residue was dissolved in 125 mL of Et2O and washed with 50 mL each of saturated NaHCO3, water, and brine. The organic phase was dried over MgSO4 and concentrated to yield 6.06 g of the title compound, which was used without further purification.

reactant | piperazine-2-carboxylic acid | 3.00 g | N1C(CNCC1)C(=O)O | C5H10N2O2
reactant | 2-(tert-butyloxycarbonyloxyimino)-2-phenylacetonitrile | 4.0 g | C(C)(C)(C)OC(=O)ON=C(C#N)C1=CC=CC=C1 | C13H14N2O3
reactant | NaOH | 5 N | [OH-].[Na+]
reactant | HCl | 1 N | Cl | ClH
reactant | Benzyl chloroformate | 2.8 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | NaOH | 5 N | [OH-].[Na+]
reactant | dioxane water | 100 mL | O1CCOCC1.O
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | Methyl 1-(benzyloxycarbonyl)-4-(tert-butyloxycarbonyl)piperazine-2-carboxylate | 6.06 g | C(C1=CC=CC=C1)OC(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)C(=O)OC | C19H26N2O6
